US09301951B2
Intermediate 17a: N-(3-(trifluoromethyl)benzyl)-2-(5-(bis(2-methoxyethyl)amino)-2-nitrophenyl)isonicotinamide
Into a 10-mL vial, was placed a solution of bis(2-methoxyethyl)amine (285.6 mg, 2.15 mmol, 3.00 equiv) in N,N-dimethylformamide (3 mL), and N,N-diisopropylethylamine (277 mg, 2.14 mmol, 2.99 equiv). This was followed by the addition of a solution of N-(3-(trifluoromethyl)benzyl)-2-(5-fluoro-2-nitrophenyl)isonicotinamide (300 mg, 0.72 mmol, 1.00 equiv) in N,N-dimethylformamide (2 mL). The resulting solution was stirred for 48 h at 80° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting solution was diluted with 50 mL of water. The resulting solution was extracted with 3×50 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 2×70 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:5˜1). The product was obtained as 270 mg (71%) of a yellow to green oil.

reactant | bis(2-methoxyethyl)amine | 2.15 mmol, 285.6 mg, 3.00 equiv | COCCNCCOC | C6H15NO2
reactant | N,N-diisopropylethylamine | 2.14 mmol, 277 mg, 2.99 equiv | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-(trifluoromethyl)benzyl)-2-(5-fluoro-2-nitrophenyl)isonicotinamide | 0.72 mmol, 300 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)F)[N+](=O)[O-])=O)C=CC1)(F)F | C20H13F4N3O3
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | N-(3-(trifluoromethyl)benzyl)-2-(5-(bis(2-methoxyethyl)amino)-2-nitrophenyl)isonicotinamide | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N(CCOC)CCOC)[N+](=O)[O-])=O)C=CC1)(F)F | C26H27F3N4O5
